US05602277
To methyl 3-hydroxy-4-nitrobenzoate (Dictionary of Organic Compounds, Heilbron, I.; Brunburg, H. M., Eds.; Vol. 3; 1953, Oxford University Press: New York, N.Y.; p 700) (5.0 g, 0.0254 mol) dissolved in acetone (50 mL) was added potassium carbonate (4.3 g, 0.0300 mol), sodium iodide (0.375 g, 0.0025 mol), and 2-bromoethanol (3.44 g, 0.0275 mol). After refluxing for 60 h, thin-layer chromatographic analysis (SiO2, 3:2 hexane:ethyl acetate) showed partial disappearance (50%) of the starting material along with the formation (50%) of a new, lower-running spot (Rf =0.2). To the reaction mixture, additional potassium carbonate (4.3 g, 0.0300 mol), sodium iodide (0.375 g, 0.0025 mol), and 2-bromoethanol (3.44 g, 0.0275 mol) were added. After refluxing for 24 h more, thin-layer chromatographic analysis (SiO2, 3:2 hexane:ethyl acetate) showed increased disappearance of the starting material along with the formation (70%) of a lower-running spot (Rf =0.2). One-half of the reaction was poured into water (200 mL) and then extracted three times with 100-mL portions of ethyl acetate. The organic layer was concentrated and the residue recrystallized from ethyl acetate-hexane. The material was collected by filtration and dried in vacuo at acetone reflux to give 0.878 g (14%) of methyl 3-(2-hydroxyethoxy)-4-nitrobenzoate as an orange solid, mp 97°-98° C.

reactant | methyl 3-hydroxy-4-nitrobenzoate | 0.0254 mol, 5.0 g | OC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C8H7NO5
reactant | potassium carbonate | 0.0300 mol, 4.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.0025 mol, 0.375 g | [I-].[Na+]
reactant | 2-bromoethanol | 0.0275 mol, 3.44 g | BrCCO | C2H5BrO
reactant | potassium carbonate | 0.0300 mol, 4.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.0025 mol, 0.375 g | [I-].[Na+]
reactant | 2-bromoethanol | 0.0275 mol, 3.44 g | BrCCO | C2H5BrO
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | water | 200 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | methyl 3-(2-hydroxyethoxy)-4-nitrobenzoate | 0.878 g, 14% | OCCOC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C10H11NO6
